US07897595B2
NBS (0.668 mmol, 119 mg) was added in one portion to a stirred solution of tert-butyl 4-hydroxy-2-oxo-1,2,5,6,8,9-hexahydro-7H-pyrido[2,3-d]azepine-7-carboxylate (0.607 mmol, 170 mg) in DCM (3 ml) at room temperature. After 3 h of stirring, the reaction was quenched with sat. aq. NaHCO3 and extracted with DCM. The organic layer was dried, concentrated in vacuo and purified purified by column chromatography to provide 180 mg (83%) of tert-butyl 3-bromo-4-hydroxy-2-oxo-1,2,5,6,8,9-hexahydro-7H-pyrido[2,3-d]azepine-7-carboxylate. Ag2CO3 (0.42 mmol, 116 mg) was added to a solution of tert-butyl 3-bromo-4-hydroxy-2-oxo-1,2,5,6,8,9-hexahydro-7H-pyrido[2,3-d]azepine-7-carboxylate (75.0 mg, 0.21 mmol) in DCM (1.5 ml) at room temperature. After 10 min of stirring, Mel (0.23 mmol, 15 μl) was added. After 5 h of stirring, sat. aq. NH4Cl was added and the mixture was extracted with DCM. The organic layer was washed with water, dried over Na2SO4 and concentrated under reduced pressure. The crude product was purified by column chromatography to provide 52 mg (67%) of tert-butyl 3-bromo-4-hydroxy-2-methoxy-5,6,8,9-tetrahydro-7H-pyrido[2,3-d]azepine-7-carboxylate. The correct regioselectivity was confirmed by NOESY. 1H-NMR (CDCl3) δ 13.21 (1H), 3.85 (3H), 3.65 (2H), 3.55 (2H), 3.05 (2H), 2.85 (2H), 1.49 (9H) ppm. To a solution of tert-butyl 3-bromo-4-hydroxy-2-methoxy-5,6,8,9-tetrahydro-7H-pyrido[2,3-d]azepine-7-carboxylate (51 mg, 0.137 mmol) was added HC1 (2 N in Et2O, 3 ml) at room temperature. After 10 h of stirring, the reaction was quenched with sat. aq. NaHCO3 and extracted with DCM. The organic layer was dried and concentrated in vacuo to provide 33 mg (89%) of 3-bromo-2-methoxy-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-4-ol. 1H-NMR (CDCl3) δ 12.02 (br s, 1H), 9.21 (br s, 1H), 3.79 (3H), 3.25 (m, 2H), 3.15 (m, 2H), 3.06 (m, 2H), 2.92 (m, 2H) ppm.

reactant | tert-butyl 3-bromo-4-hydroxy-2-methoxy-5,6,8,9-tetrahydro-7H-pyrido[2,3-d]azepine-7-carboxylate | 0.137 mmol, 51 mg | BrC1=C(C2=C(CCN(CC2)C(=O)OC(C)(C)C)N=C1OC)O | C15H21BrN2O4
solvent | Et2O | CCOCC | C4H10O
product | 3-bromo-2-methoxy-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-4-ol | 33 mg, 89% | BrC1=C(C2=C(CCNCC2)N=C1OC)O | C10H13BrN2O2
